US04282365
2-(1H-Tetrazol-5-yl)-6,11-dihydro-11-hydroxydibenz[b,e]oxepin
Suspend 1 gm. of 2-(1H-tetrazol-5-yl)-6,11-dihydro-11-oxodibenz[b,e]oxepin in 100 cc. of absolute ethanol and add excess sodium borohydride in portions. Dilute the resulting solution with water and acidify with aqueous conc. hydrochloric acid. Separate the solids by filtration. Crystallize from ethyl acetate to obtain the title product (m.p. 335° C.).

reactant | 2-(1H-tetrazol-5-yl)-6,11-dihydro-11-oxodibenz[b,e]oxepin | N1N=NN=C1C1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C15H10N4O2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-(1H-Tetrazol-5-yl)-6,11-dihydro-11-hydroxydibenz[b,e]oxepin | N1N=NN=C1C1=CC2=C(OCC3=C(C2O)C=CC=C3)C=C1 | C15H12N4O2
